* Spice netlister for gnetlist
U2 eight ten eleven <No valid value attribute found>
C4 eleven nine 1uf
C3 ten nine 22uF
R1 nine nine ten 5k
C2 eight nine 0.1uF
R2 ten eleven 220
C1 eight nine 2200uF
S1 two one <No valid value attribute found>
CONN1 one five 0 <No valid value attribute found>
T1 five three seven six <No valid value attribute found>
F1 two three <No valid value attribute found>
U1 seven six eight nine <No valid value attribute found>
.END
