* Spice netlister for gnetlist
U2 eight ten eleven LM317
C4 eleven nine 1uf
C3 ten nine 22uF
R1 nine nine ten 5k
C2 eight nine 0.1uF
R2 ten eleven 220
C1 eight nine 2200uF
S1 one two <No valid value attribute found>
CONN1 one five 0 <No valid value attribute found>
T1 five three seven six <No valid value attribute found>
F1 two three <No valid value attribute found>
U1 seven six eight nine <No valid value attribute found>
.END
